US05347013
Preparation of (-)(2aR,4S)-6-(2-furyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole
To a sealable tube with threads containing 13 ml of dry tetrahydrofuran were added 1.2 g (2.46 mmol) of (+) (2aR, 4S)-1-benzoyl-6-iodo-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole, 968 mg (2.71 mmol) of 2-(tributylstannyl)furan and 200 mg of bis(triphenylphosphine)palladium(II) chloride. The resulting mixture was then deaerated with argon for 15 minutes. After deaeration, the tube was sealed with a teflon cap and the contents thereof were heated to 100° C. for 24 hours. After 24 hours, the reaction mixture was cooled, filtered through a celite pad and the resulting filtrate was then concentrated in vacuo to provide a viscous orange oil. Flash chromatography of this oil over silica gel with 60% ethyl acetate/hexane plus 0.5% ammonium hydroxide as eluent gave the protected analog of the title compound in 61% yield.

reactant | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
reactant | (+) (2aR, 4S)-1-benzoyl-6-iodo-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 2.46 mmol, 1.2 g | C(C1=CC=CC=C1)(=O)N1C[C@H]2C=3C(=C(C=CC13)I)C[C@H](C2)N(CCC)CCC | C24H29IN2O
reactant | 2-(tributylstannyl)furan | 2.71 mmol, 968 mg | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (-)(2aR,4S)-6-(2-furyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 61% yield | O1C(=CC=C1)C1=C2C=3[C@H](CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C21H28N2O
